6
R0102 1 2 4E3
R0302 3 2 4E3
R0301 3 1 1
R0405 4 5 2E3
R0406 4 6 2E3
M0500 5 0 1 0 NMOS L=1E-6 W=20E-6 4E-4 0.5 0.01 0 0.6 0.1E-6
M0600 6 0 3 0 NMOS L=1E-6 W=20E-6 4E-4 0.5 0.01 0 0.6 0.1E-6
V0200 2 0 0 0 -5
V0400 4 0 0 0 5
